US07067540B2
3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-methyl-5-vinylpyridin-2(1H)-one
To a room temperature solution of 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-5-iodo-6-methylpyridin-2(1H)-one (1.00 g, 1.76 mmol) in anhydrous THF (12 mL) was added, sequentially, tributyl(vinyl)tin (1.21 g, 3.81 mmol) and tetrakis(triphenylphosphine)palladium (236 mg, 0.204 mmol) under an argon stream. The reaction vessel was then equipped with a reflux condenser and the reaction system purged with an argon flow. The resulting yellow solution was heated to 68° C. and stirred under a positive pressure of argon for 12.0 hours until complete disappearance of starting material by LCMS analysis. The reaction mixture was concentrated in vacuo and the resulting dark residue was subjected to SiO2 chromatography with ethyl acetate/hexanes (3:7) to furnish a reddish solid. 1H NMR (400 MHz, CDCl3) δ 7.62 (app q, J=7.8 Hz, 1H), 7.45 (app tt, J=8.4, 6.2, 1H), 7.09 (app t, J=8.8 Hz, 2H), 6.90 (app t, J=8.0 Hz, 1H), 6.83 (app dt, J=6.8, 2.5 Hz, 1H), 6.51 (dd, J=17.7, 11.4 Hz, 1H), 5.53 (dd, J=11.4, 1.5 Hz, 1H), 5.41 (dd, J=17.8, 1.5 Hz, 1H), 5.09 (br s, 2H), 2.09 (s, 3H); LC/MS C-18 column, tr=3.20 minutes (5 to 95% acetonitrile/water over 5 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-MS m/z 468 (M+H). ES-HRMS m/z 468.0210 (M+H calcd for C21H15BrF4NO2 requires 468.0217).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-5-iodo-6-methylpyridin-2(1H)-one | 1.76 mmol, 1.00 g | BrC=1C(N(C(=C(C1OCC1=C(C=C(C=C1)F)F)I)C)C1=C(C=CC=C1F)F)=O | C19H11BrF4INO2
reactant | tributyl(vinyl)tin | 3.81 mmol, 1.21 g | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | acetonitrile water | C(C)#N.O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.204 mmol, 236 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-methyl-5-vinylpyridin-2(1H)-one | BrC=1C(N(C(=C(C1OCC1=C(C=C(C=C1)F)F)C=C)C)C1=C(C=CC=C1F)F)=O | C21H14BrF4NO2
